US08604039B2
7.2 Synthesis of ((R)-3-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-ylamino}-pyrrolidin-1-yl)-(R)-tetrahydro-furan-2-yl-methanone, Example196 (See Scheme 7)
Starting from {2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-(R)-pyrrolidin-3-yl-amine Diastereomer 1 (Example 171) (see scheme 3, 3.22) and (R)-(+)-tetrahydrofuran-2-carboxylic acid, Example 196 is prepared as described in Example 231 (see scheme 7). The product is purified by preparative HPLC (method B). Analytical HPLC-MS (method D): RT=1.18 min.

reactant | {2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-(R)-pyrrolidin-3-yl-amine | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N[C@H]2CNCC2 | C20H25ClN6OS
reactant | (R)-(+)-tetrahydrofuran-2-carboxylic acid | O1[C@H](CCC1)C(=O)O | C5H8O3
product | ((R)-3-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-ylamino}-pyrrolidin-1-yl)-(R)-tetrahydro-furan-2-yl-methanone | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N[C@H]2CN(CC2)C(=O)[C@@H]2OCCC2 | C25H31ClN6O3S
